Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS: Mr. ___ is a ___ year old man 
with
a history of RLE unprovoked DVT, GERD, hypertension who presents 
with a chiefcomplaint of shortness of breath.

Patient was in his normal state of health until several days 
prior to presentation when he developed pain, redness and heat 
over the back of his left calf. He states his symptoms were 
similar to his prior DVTs though he denies any recent travel by 
plane, long car rides.  He is a non-smoker and does not take 
hormone replacement. Patient states that pain improved somewhat 
over the course the next days but on ___ day of 
presentation he developed shortness of breath when walking up 
the stairs and doing minimal activity which prompted 
presentation to ___ emergency department.  

At ___ patient had CT Angiogram of the chest which 
demonstrated a large, central right pulmonary embolism.  Labs 
notable for troponin I of 0.05 with EKG showing sinus rhythm 
with frequent PVCs and borderline left axis deviation. Patient 
was started on a heparin gtt. Patient's case was discussed with 
___ ___ team and transfer was recommended for possibility 
of TPA.
Patient underwent ED-ED transfer. 

In the ED, initial vitals notable for HR 101, BP 114/81 SaO2 95%
4 L NC
- Exam notable for:  Lungs CTA B/l, peaking in full sentences.
- Labs notable for:  TropT < .01, NTpBNP 1538, INR 1.3
- Imaging notable for:  None at ___
- Bedside echo without RV strain 
- Pt given:  IV heparin
- Vitals prior to transfer: HR 75 BP 145/86 RR 20 SaO295% RA

Upon arrival to the floor, the patient reports the above 
history. Denies current SOB, chest pain, fevers, chills, 
abdominal pain, dysuria, constipation, N/V. 

REVIEW OF SYSTEMS:  
A 10-point ROS was taken and is negative except otherwise stated
in the HPI. 

 
Past Medical History:
- ? Right Past DVT possibly c/b venous insufficency, PTS managed
with 
compression stockings. Had right calf swelling and redness at
least ___ years ago, seen by PCP, had ___ in ED but then sent
home. Saw a specialist (doesn't remember what type) who
recommended compression stockings but has never been on
anti-coagulation.
- hypertension
- tonsillectomy
- appendectomy at age ___
 
Social History:
___
Family History:
No known family history of VTE.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
========================
VITALS:  ___ 2241 Temp: 97.7 PO BP: 139/74 HR: 78 RR: 18 O2
sat: 95% O2 delivery: Ra 

General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Both lower extremities with diffuse, slight erythema, tight
1+ pitting edema. LLE > RLE, negative ___ sign
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.

DISCHARGE PHYSICAL EXAM: 
========================
24 HR Data (last updated ___ @ 805)
    Temp: 97.8 (Tm 98.1), BP: 141/82 (131-146/68-84), HR: 78
(55-78), RR: 18 (___), O2 sat: 96% (94-99), O2 delivery: Ra,
Wt: 266.53 lb/120.9 kg  
General: Alert, oriented, no acute distress  
HEENT: MMM, JVP not elevated 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops, heaves
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Both lower extremities with diffuse, slight erythema, tight
1+ pitting edema LLE > RLE
Skin: Warm, dry, no rashes or notable lesions. 
Neuro: AAOx3 
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 05:05PM BLOOD WBC-9.9 RBC-5.59 Hgb-16.6 Hct-50.6 MCV-91 
MCH-29.7 MCHC-32.8 RDW-13.5 RDWSD-44.5 Plt ___
___ 05:05PM BLOOD Neuts-57.5 ___ Monos-8.1 Eos-2.9 
Baso-0.6 Im ___ AbsNeut-5.66 AbsLymp-3.01 AbsMono-0.80 
AbsEos-0.29 AbsBaso-0.06
___ 05:05PM BLOOD ___ PTT-150* ___
___ 05:05PM BLOOD Glucose-107* UreaN-25* Creat-1.0 Na-143 
K-3.7 Cl-104 HCO3-19* AnGap-20*
___ 05:05PM BLOOD cTropnT-<0.01 proBNP-1538*
___ 05:05PM BLOOD Calcium-10.1 Phos-3.3 Mg-1.8

IMAGING: 
========
CTA Chest 
IMPRESSION:
1. There is a large central right pulmonary embolism which is
near occlusive centrally. There is evidence of associated right
heart strain. No left pulmonary emboli are identified. I
discussed this with Dr. ___ at the time of this report.
2. Mild cardiomegaly and mild coronary calcification. There is
evidence of right heart strain without evidence of acute
congestive heart failure.
3. A few small scattered calcified and noncalcified nodules most
likely reflect a benign etiology.

CXR (___)
1. There is no evidence of an acute cardiac or pulmonary 
process.

LENIS - ___: 
FINDINGS:  
  
There is normal compressibility, color flow, and spectral 
doppler of the 
bilateral common femoral, femoral, and popliteal veins. Normal 
color flow and  compressibility are demonstrated in the 
posterior tibial and peroneal veins. 
  
There is normal respiratory variation in the common femoral 
veins bilaterally. 
  
No evidence of medial popliteal fossa (___) cyst.  
  
IMPRESSION:  
  
No evidence of acutedeep venous thrombosis in the right or left 
lower 
extremity veins. 

Transthoracic Echocardiogram Report
Name: ___ MRN: ___ Date: ___ 08:30
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. The estimated
right atrial pressure is >15mmHg. There is mild symmetric left 
ventricular hypertrophy with a normal
cavity size. There is suboptimal image quality to assess 
regional left ventricular function. Overall left
ventricular systolic function is low normal. There is 
beat-to-beat variability in the left ventricular
contractility due to the irregular rhythm. The visually 
estimated left ventricular ejection fraction is
50-55%. Left ventricular cardiac index is normal (>2.5 
L/min/m2). There is no resting left ventricular
outflow tract gradient. There is Grade II diastolic dysfunction. 
Moderately dilated right ventricular
cavity with low normal free wall motion. Tricuspid annular plane 
systolic excursion (TAPSE) is
depressed. There is abnormal interventricular septal motion c/w 
right ventricular pressure and volume
overload. The aortic sinus diameter is normal for gender with 
normal ascending aorta diameter for
gender. The aortic arch is mildly dilated. The aortic valve 
leaflets (3) are mildly thickened. There is no
aortic valve stenosis. There is no aortic regurgitation. The 
mitral valve leaflets appear structurally
normal. There is trivial mitral regurgitation. The tricuspid 
valve is not well seen. There is trivial
tricuspid regurgitation. There is mild-moderate pulmonary artery 
systolic hypetension. There is no
pericardial effusion.
IMPRESSION: Suboptimal image quality. Right ventricular cavity 
dilatation w/ mild global free
wall hypokinesis. Mild-moderate pulmonary artery systolic 
hypertension. Abnormal septal motion
c/w pressure/volume overload. Mild symmetric left ventricular 
hypertrophy with low normal
global systolic function.

DISCHARGE LABS: 
===============
___ 05:10AM BLOOD WBC-7.7 RBC-4.94 Hgb-14.6 Hct-44.3 MCV-90 
MCH-29.6 MCHC-33.0 RDW-13.3 RDWSD-43.2 Plt ___
___ 05:10AM BLOOD ___ PTT-62.4* ___
___ 05:10AM BLOOD Glucose-100 UreaN-22* Creat-1.1 Na-145 
K-3.7 Cl-107 HCO3-23 AnGap-15
___ 05:10AM BLOOD Calcium-9.1 Phos-3.2 Mg-1.___RIEF HOSPITAL COURSE:
======================
Mr. ___ is a ___ year old man with a history of RLE 
unprovoked DVT ___ yrs ago, not on anti-coagulation), GERD and 
hypertension who presents with a chief complaint of shortness of 
breath and was found to have submassive PE. He was treated with 
heparin initially, then transitioned to apixaban for 
anticoagulation on discharge.

ACUTE/ACTIVE PROBLEMS: 
#Sub-massive pulmonary embolism. 
Patient presented with several days of left lower extremity 
swelling and SOB found to have new onset hypoxia c/f DVT/PE. 
Found to have large central right pulmonary embolism, nearly 
occlusive, with elevated NT proBNP of 1538 and elevated troponin 
I at ___ of 0.05 (i.e. evidence of myocardial necrosis), 
with
resolution of troponin to 0.01 on admission to ___. ___ (PE 
consultants) was consulted upon arrival to ___ with evaluation 
consistent with submassive PE with low risk features overall. 
Per ___, patient was without indication for tPA. Patient was 
initiated on Heparin gtt. Patient's O2 requirement and 
tachycardia resolved by Day 2 of hospitalization. LENIs were 
performed to assess for clot burden which did not demonstrate 
evidence of thrombi. TTE was obtained to rule out right heart 
strain which demonstrated RV cavity dilation and low-normal RV 
function. Patient was transitioned to apixaban on discharge. Of 
note, patient with reported prior RLE thrombi ___ years ago) 
treated with compression stockings (no anticoagulation in the 
past). Patient does not have clear risk factors for thrombi 
outside of prolonged car travel in early ___. 

CHRONIC/STABLE PROBLEMS: 
# Hypertension. 
- Patient continued on home amlodipine and HCTZ.

# GERD. 
- Patient continued on home omeprazole 20 mg daily 

TRANSITIONAL ISSUES: 
====================
[] Patient with multiple unprovoked DVT. Outpt follow up with 
hematology for thrombophilia workup should be pursued if unable 
to obtain records indicating prior workup completed.
[] Please ensure age-appropriate cancer screening
[] Aspirin discontinued given initiation of apixaban, only 
indication was primary prevention
[] Consider repeat interval TTE to ensure resolution of above RV 
dilatation and pHTN

GENERAL/SUPPORTIVE CARE: 
#CODE: DNAR/DNI confirmed: Patient recently filled out power of 
attorney with wife and would "not want any heroic measures." 
Specifically would not want chest compressions or intubation, 
even if there was a reasonable chance he could be weaned quickly 
from vent 
#CONTACT: ___ (wife) 
___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Hydrochlorothiazide 50 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
5. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
2.  amLODIPine 5 mg PO DAILY  
3.  Calcium 500 + D (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY  
4.  Hydrochlorothiazide 50 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES: 
==================
Pulmonary Embolism
Deep Vein Thrombosis

SECONDARY DIAGNOSES: 
====================
HYPERTENSION
GERD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  

- You were admitted because you were feeling short of breath and 
had swelling in your left leg.   
 
What was done for me while I was in the hospital?  

- Imaging was performed that showed that you had a blood clot in 
your lungs. This is called a pulmonary embolism. 
- We gave you a blood thinner to prevent the clot from getting 
larger and prevent future clots
- We also looked at the blood vessels in  your legs to make sure 
you didn't have any additional clots, which you did not.

What should I do when I leave the hospital?  

- Be aware that you might bleed or bruise more easily
- Call your doctor should you have any severe bleeding, or minor 
bleeding that does not stop within approximately 30 minutes
- You may return to your regular activities, but be aware that 
it may take some time for your symptoms to improve 

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___